US07655669B2
4-(2-Methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzoic acid
A mixture of 4-(2-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzonitrile (1.01 g, 4 mmol), 6 mL of acetic acid and 3 mL of 12M hydrochloric acid (37%) is shaken for 16 hours at 95° C. After cooling, the reaction mixture is evaporated to dryness under reduced pressure. The resulting residue is evaporated twice with toluene, dissolved in water and the pH is adjusted to ˜5-6 by dropwise addition of 1M sodium hydroxide solution. The aqueous phase is extracted twice with n-butanol and the organic phase evaporated to yield the title compound as a beige solid.

reactant | 4-(2-methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzonitrile | 4 mmol, 1.01 g | CC=1N(C=CN1)C1=C(C=C(C#N)C=C1)C(F)(F)F | C12H8F3N3
reactant | hydrochloric acid | 12M, 3 mL | Cl | ClH
reactant | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 4-(2-Methyl-1H-imidazol-1-yl)-3-(trifluoromethyl)-benzoic acid | CC=1N(C=CN1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C12H9F3N2O2
